US08372970B2
Step 2: Synthesis of 2-(2-hydroxy-ethylamino)-1-(4-nitro-phenyl)-ethanol (3)
The mixture of 2-(4-nitro-phenyl)-oxirane (24.1 g, 0.15 mol) in ethanolamine (500 mL) was stirred at 40° C. for 2 h, then room temperature for 18 h. The reaction was partitioned between ethyl acetate (200 mL) and water (200 mL) and the aqueous layer was extracted with ethyl acetate (4×100 mL). The combined organic layers were dried over sodium sulfate, filtered and evaporated. The residue was triturated with acetonitrile and collected to give the title compound (19.80 g, 0.09 mmol, 60%) as a white solid. ESMS m/z 227 (M+H)+;

reactant | 2-(4-nitro-phenyl)-oxirane | 0.15 mol, 24.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C1OC1 | C8H7NO3
reactant | ethanolamine | 500 mL | C(O)CN | C2H7NO
product | 2-(2-hydroxy-ethylamino)-1-(4-nitro-phenyl)-ethanol | 0.09 mmol, 19.80 g, 60% | OCCNCC(O)C1=CC=C(C=C1)[N+](=O)[O-] | C10H14N2O4
